Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:12].[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.011327044750001
[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[H:9].[O:1]=[O:2]>>[O:1][O:2][C:3]([C:4]([H:5])[H:6])=[C:7]([H:8])[H:9],0.850394898171
[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-4.25629887304
[C:1]#[C:2][O:3][H:4]>>[C:1].[C:2][O:3][H:4],5.780136788049999
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:3]([H:4])([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2],2.5999025385900003
[C:5]=[C:6]([H:7])[H:8].[H:1][C:2][O:3][C:4][O:9][H:10]>>[H:1][C:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10],-4.578243485940001
[C:8]#[C:9][H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10],-5.09671953546
[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-6.98092898161
[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8],1.50247983204
[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5][H:6]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.7439709302100015
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-0.82465567597
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],1.29873252166
[H:1][C:2]#[C:3][C:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4][C:5](=[O:6])[C:8]([H:9])([H:10])[H:11].[H:7],3.78752190699
[H:1][c:2]1[o:3][c:4]([H:5])[c:6]([C:7]([H:8])([H:9])[H:10])[c:11]1[H:12]>>[H:1]/[C:2]([O:3][C:4]([H:5])=[C:6][H:12])=[C:11]\[C:7]([H:8])([H:9])[H:10],5.57947934851
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:12]([H:13])[H:14],1.82822241964
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-3.26954926709
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9],-5.50387932586
[C:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.6806718174199999
[O:1][O:2][C:3]([H:4])[C:5][C:6]#[C:7][H:8]>>[C:6]#[C:7][H:8].[O:1][O:2][C:3]([H:4])=[C:5],6.3499764485500005
[H:4].[O:1][O:2][C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.08837901509
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[O:9]>>[C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[O:9].[O:1]=[C:2],0.25072036293
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10].[O:1]=[C:2],3.3038016907200003
[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10]>>[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10].[H:1][C:2],6.79361870276
[H:1][C:2]1([H:3])[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15].[H:6]>>[H:1][C:2]1([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-4.29812810749
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[O:4],0.727945453141
[C:1]=[C:2]([C:3]([H:4])[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:9]([H:10])([H:11])[H:12].[C:3]([H:4])[O:5][C:6]([H:7])[H:8],3.65170044271
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1[C:8][C:10]([H:11])([H:12])[C:13]1([H:14])[H:15].[H:9]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1=[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-4.98230657455
[C:1]([C:4][C:7]#[C:8])([H:6])[H:9].[C:2]#[C:3][H:5]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-3.2629673822000003
[C:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[C:1]#[C:2][C:11]([C:8]([C:3][C:4]([H:5])([H:6])[H:7])([H:9])[H:10])([H:12])[H:13],3.0661423684400004
